US04318913
3-[[3-[(3-Amino-1-methyl-1H-1,2,4-triazol-5-yl)amino]propyl]-amino]-N,N-dimethylbenzamide
3-[(3-Aminopropyl)amino]-N,N-dimethylbenzamide (0.8 g) and N-cyano-1-methyl-2-(phenylmethylene)hydrazine carboximidothioic acid, methyl ester (0.84 g) were heated together under reduced pressure of 14 mm Hg during 4 hr at 100°. The cooled reaction mixture was dissolved in acetone, treated with 1N hydrochloric acid (2 ml) and heated at 60° for 0.5 hr. The mixture was cooled, basified with potassium carbonate and extracted with ethyl acetate. Evaporation of the organic extracts gave a viscous oil which was triturated with ether to give the title compound (0.49 g). TLC silica; methanol:ammonia (80:1) Rf 0.63. NMR (CDCl3) 2.9 m (1H); 3.2-3.7 m (3H); 5.28 t (1H); 6.12 s (2H); 6.7 s (3H); 7.0 s (6H); 6.4-7.4 m (5H); 8.23 t (2H).

reactant | 3-[(3-Aminopropyl)amino]-N,N-dimethylbenzamide | 0.8 g | NCCCNC=1C=C(C(=O)N(C)C)C=CC1 | C12H19N3O
reactant | N-cyano-1-methyl-2-(phenylmethylene)hydrazine carboximidothioic acid, methyl ester | 0.84 g | C(#N)N=C(SC)N(N=CC1=CC=CC=C1)C | C11H12N4S
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 3-[[3-[(3-Amino-1-methyl-1H-1,2,4-triazol-5-yl)amino]propyl]-amino]-N,N-dimethylbenzamide | 0.49 g | NC1=NN(C(=N1)NCCCNC=1C=C(C(=O)N(C)C)C=CC1)C | C15H23N7O
